US04000302
N-Cyano-N'-methyl-N"-[2-(5-thiazolylmethylthio)ethyl]-guanidine
The reaction of N-methyl-N'-[2-(5-thiazolylmethylthio)ethyl]thiourea with lead cyanamide by the procedure of Example 91, refluxing for 24 hours gives the title compound.

reactant | N-methyl-N'-[2-(5-thiazolylmethylthio)ethyl]thiourea | CNC(=S)NCCSCC1=CN=CS1 | C8H13N3S3
reactant | lead cyanamide | N#CN.[Pb]
product | N-Cyano-N'-methyl-N"-[2-(5-thiazolylmethylthio)ethyl]-guanidine | C(#N)NC(=NCCSCC1=CN=CS1)NC | C9H13N5S2
